US09211280B2
Preparation of (E)-1-Ethyl-3-((4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methyl)urea (CC49)
To a stirred solution of (E)-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methanamine (0.1 g, 0.22 mmol) in CH2Cl2 at 0° C. were added TEA (0.064 mL, 0.44 mmol) and ethylisocyanate (0.023 mL, 0.33 mmol), and the reaction mixture was stirred for 1 h at 0° C. The reaction mixture was diluted with CH2Cl2. The organic layer was washed with water and brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by column chromatography (SiO2, 100-200 mesh; 30% EtOAc in hexane) afforded the title compound as a solid (0.07 g, 60%): mp 84-87° C.; 1H NMR (400 MHz, CDCl3) δ 8.06 (m, 1H), 7.98 (m, 1H), 7.61 (m, 3H), 7.48 (s, 2H), 7.44 (d, J=8.0 Hz, 1H), 7.38 (m, 2H), 6.42 (m, 1H), 4.92 (s, 2H), 4.6 (br s, 1H), 4.24 (m, 1H), 3.21 (m, 2H), 1.2 (t, J=4.6 Hz, 3H); ESIMS m/z 515.33 ([M+H]+).

reactant | (E)-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methanamine | 0.22 mmol, 0.1 g | FC(C(/C=C/C1=CC=C(C2=CC=CC=C12)CN)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C21H15Cl3F3N
reactant | ethylisocyanate | 0.33 mmol, 0.023 mL | C(C)N=C=O | C3H5NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-1-Ethyl-3-((4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methyl)urea | 0.07 g, 60% | C(C)NC(=O)NCC1=CC=C(C2=CC=CC=C12)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H20Cl3F3N2O
